US06004977
N-[2-(5-Benzyloxy-2-bromo-4-methoxyphenyl)ethylidene]-N'-pyridin-4-yl-hydrazine hydrochloride
A mixture of 5-benzyloxy-2-bromo-4-methoxy-3-(2-methoxyvinyl)benzene (42.1 g), 4-hydrazinopyridine hydrochloride (19.0 g), p-toluenesulfonic acid (0.23 g) and ethanol (350 ml) was heated under reflux overnight, with stirring. The reaction mixture was cooled and filtered. Recrystallization of the precipitate from methanol yielded 40.2 g, (72.2%) of product, mp 232-233° C.

reactant | 5-benzyloxy-2-bromo-4-methoxy-3-(2-methoxyvinyl)benzene | 42.1 g | C(C1=CC=CC=C1)OC=1C(=C(C(=CC1)Br)C=COC)OC | C17H17BrO3
reactant | 4-hydrazinopyridine hydrochloride | 19.0 g | Cl.N(N)C1=CC=NC=C1
reactant | p-toluenesulfonic acid | 0.23 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethanol | 350 ml | C(C)O | C2H6O
product | N-[2-(5-Benzyloxy-2-bromo-4-methoxyphenyl)ethylidene]-N'-pyridin-4-yl-hydrazine hydrochloride | 72.2% | Cl.C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)CC=NNC1=CC=NC=C1)Br)OC | InChI=1S/C21H20BrN3O2.ClH/c1-26-20-14-19(22)17(7-12-24-25-18-8-10-23-11-9-18)13-21(20)27-15-16-5-3-2-4-6-16;/h2-6,8-14H,7,15H2,1H3,(H,23,25);1H
